US06339127B1
Subsequently, the aqueous emulsion containing BA polymer (A-1) was kept at 90° C., and thereto were added 2 parts of dodecylbenzenesulfonic acid (DBSA) and 18 parts of pure water to adjust the system to pH 1.2. The emulsion of silicone rubber-forming component (b) was equally divided into four portions, and the portions were added every 1 hour at a time to the above aqueous emulsion. After the completion of the addition, the system was further stirred for 1 hour, cooled to 25° C. and allowed to stand for 20 hours. Thereafter, the system was adjusted to pH 8.9 with sodium hydroxide to finish the polymerization, thus giving an aqueous emulsion (C-1) containing silicone-rubber particles. The polymerization conversion of the silicone rubber-forming component (b) was 87%. The emulsion (C-1) had a solid content of 24%. The results of evaluation about the amount of emulsifier (SDBS+DBSA) used in the preparation of the emulsion (C-1), number average particle size, variation coefficient in particle size distribution and content of toluene-insoluble matter are shown in Table 1.

reactant | dodecylbenzenesulfonic acid | C(CCCCCCCCCCC)C1=C(C=CC=C1)S(=O)(=O)O | C18H30O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | SDBS DBSA | CCCCCCCCCCCCC1=CC=CC=C1S(=O)(=O)[O-].[Na+].C(CCCCCCCCCCC)C1=C(C=CC=C1)S(=O)(=O)O | InChI=1S/2C18H30O3S.Na/c2*1-2-3-4-5-6-7-8-9-10-11-14-17-15-12-13-16-18(17)22(19,20)21;/h2*12-13,15-16H,2-11,14H2,1H3,(H,19,20,21);/q;;+1/p-1
